US07485640B2
8-Oxo-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine hydrochloride (87 mg, 0.53 mmol), prepared as described in Example 25, was reacted with 5′-bromo-4,2′-difluorobiphenyl-2-carbonitrile (prepared as described in WO 02/074773, 204 mg, 1.3 mol eq) in DMA (2 ml) in the presence of potassium acetate (280 mg, 1.5 mol eq), palladium acetate (6 mg, 5 mol %) and triphenylphosphine (7 mg, 5 mol %). After bubbling nitrogen through the reaction mixture for 10 min, the temperature was raised to 130° C. and heating continued for 3 h. After cooling, the crude reaction mixture was poured onto a column of silica and purified using 0-5% methanol in dichloromethane as eluent. Recrystallization from ethyl acetate/dichloromethane gave 4,2′-difluoro-5′-(8-oxo-7,8-dihydroimidazo[1,2-a]pyrazin-3-yl)biphenyl-2-carbonitrile (126 mg): δH (400 MHz, DMSO) 3.54-3.58 (2H, m), 4.28-4.32 (2H, m), 7.39 (1H, s), 7.54-7.59 (1H, m), 7.71-7.78 (4H, m), 8.05-8.08 (1H, m), 8.18 (1H, br s); m/z (ES+) 351 [M+H]+.

reactant | 8-Oxo-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine hydrochloride | 0.53 mmol, 87 mg | Cl.O=C1C=2N(CCN1)C=CN2
reactant | 5′-bromo-4,2′-difluorobiphenyl-2-carbonitrile | 1.3 mol, 204 mg | BrC=1C=CC(=C(C1)C=1C(=CC(=CC1)F)C#N)F | C13H6BrF2N
reactant | potassium acetate | 1.5 mol, 280 mg | C(C)(=O)[O-].[K+]
solvent | DMA | 2 ml | CC(=O)N(C)C | C4H9NO
catalyst | palladium acetate | 6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 7 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 4,2′-difluoro-5′-(8-oxo-7,8-dihydroimidazo[1,2-a]pyrazin-3-yl)biphenyl-2-carbonitrile | 126 mg | FC=1C=C(C(=CC1)C1=C(C=CC(=C1)C1=CN=C2N1C=CNC2=O)F)C#N | C19H10F2N4O
